US07371757B2
(a) 6-Chloro-1-cyclopropylmethylpyrimidine-2,4[1H,3H]dione
6-Chlorouracil I (49.64 g, 0.34 mol; Lancaster) was dissolved in anhydrous DMSO (375 mL) and treated with solid K2CO3 (23.46 g, 0.17 mol) under nitrogen. The resulting white suspension was heated to ca. 80-90° C. and kept at this temperature for 2¼ h. Foaming was observed as the temperature increased, then the reaction mixture became mostly clear. Cyclopropylmethyl bromide (65 g, 0.48 mol) was added neat via syringe, resulting in a white fluffy precipitate. This was followed by a catalytic amount of KI (2.88 g, 0.017 mol). The reaction mixture was heated for 19 hr, becoming mostly homogenous, then turbid with white granular precipitate, and eventually orange as the reaction progressed, remaining heterogeneous. 375 mL 1 N NaOH (aq) was added to the hot reaction mixture, causing it to darken and clear. The heat was removed and the reaction mixture allowed to cool to room temperature while stirring. It was washed with 4×125 mL toluene and the organic washings discarded. The aqueous phase was brought to pH 2-3 by the addition of ca. 100 mL conc. HCl (aq.). 50 mL water was added, and precipitation began after about one hour at room temperature; cooling in ice completed the crystallization. The yellow-green solid was collected by filtration and washed with very cold ether to remove most of the color, then dried under vacuum. Yield: 29.37 g (43%) of a light yellow solid.

reactant | 6-Chlorouracil | ClC1=CC(NC(N1)=O)=O | C4H3ClN2O2
reactant | K2CO3 | 0.17 mol, 23.46 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Cyclopropylmethyl bromide | 0.48 mol, 65 g | C1(CC1)CBr | C4H7Br
reactant | NaOH | 1 N, 375 mL | [OH-].[Na+]
solvent | DMSO | 375 mL | CS(=O)C | C2H6OS
product | 6-Chloro-1-cyclopropylmethylpyrimidine-2,4[1H,3H]dione | ClC1=CC(NC(N1CC1CC1)=O)=O | C8H9ClN2O2
